US06451724B1
In a 70 ml bulb were placed 2.26 g (6 mmol) of the ligand 10-[1-methyl-1-(cyclopentadienyl)ethyl]N-phenyl-5,10-dihydroindeno[1,2-b]indole, prepared in Example 16, and 20 ml of toluene. The obtained mixture was cooled to −50° C. and treated with 7.5 ml (12 mmol) of BuLi 1.6N in hexane. The resulting solution was allowed to warm to room temperature within 1 hour and then it was treated with 1.4 g (6 mmol) of ZrCl4. The solvent was evaporated and the residue was recrystallized from ether, thus yielding 0.55 g of isopropyliden(N-phenyl-5,10-dihydroindeno[1,2-b]indol-10-yl)(cyclopentadienyl) zirconium dichloride (yield=17%).

reactant | 10-[1-methyl-1-(cyclopentadienyl)ethyl]N-phenyl-5,10-dihydroindeno[1,2-b]indole | CC(C)(C1C=CC=C1)C1C2=CC=CC=C2C=2N(C=3C=CC=CC3C21)C2=CC=CC=C2 | C29H25N
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | BuLi | 12 mmol, 1.6N, 7.5 ml | [Li]CCCC
reactant | ZrCl4 | 6 mmol, 1.4 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | hexane | CCCCCC | C6H14
product | isopropyliden(N-phenyl-5,10-dihydroindeno[1,2-b]indol-10-yl)(cyclopentadienyl) zirconium dichloride | 0.55 g, yield=17% | [Cl-].[Cl-].C(C)(C)=[Zr+2](C1C=CC=C1)C1C2=CC=CC=C2C=2N(C=3C=CC=CC3C21)C2=CC=CC=C2 | InChI=1S/C21H14N.C5H5.C3H6.2ClH.Zr/c1-2-9-16(10-3-1)22-20-13-7-6-12-18(20)19-14-15-8-4-5-11-17(15)21(19)22;1-2-4-5-3-1;1-3-2;;;/h1-14H;1-5H;1-2H3;2*1H;/q;;;;;+2/p-2
